US06355653B1
To a boiling suspension of 78.8 g(0.70 mol) potassium tert-butoxide in 400 ml tetrahydrofuran was slowly added over a period of 5 hours a mixture of 70.1 g (0.23 mol) 3-benzenesulfonylmethyl-5-phenyl-1H-[1,2,4]triazole and 30.5 g (0.23 mol) 3-(4-pyridinyl)-2-propenenitrile in 800 ml tetrahydrofuran. Boiling was continued for 18 hours and then the mixture was cooled to room temperature. Evaporation of the solvent and chromatography on silicael with dichloromethane/methanol 95/5 gave 19.8 g (29%) 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine as yellow crystals with mp. 207-210° C., MS m/e (%):287 (M+, 100).

reactant | potassium tert-butoxide | 0.70 mol, 78.8 g | CC(C)([O-])C.[K+]
reactant | 3-benzenesulfonylmethyl-5-phenyl-1H-[1,2,4]triazole | 0.23 mol, 70.1 g | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C1=CC=CC=C1 | C15H13N3O2S
reactant | 3-(4-pyridinyl)-2-propenenitrile | 0.23 mol, 30.5 g | N1=CC=C(C=C1)C=CC#N | C8H6N2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 19.8 g, 29% | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2N)C2=CC=NC=C2)=N1 | C17H13N5
